US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-5-ureidopentyl]-3-methyl-4-(pyrrolidin 1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-5-ureidopentylamine in tetrahydrofuran. Yield: %; Rf value: 0.07 (silica gel: dichloromethane/ethanol=9:1); C26H31ClN6O3 (511.03); mass spectrum: (M+H)+=511/513 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-5-ureidopentylamine | ClC1=CC2=C(NC(=N2)[C@H](CCCCNC(=O)N)N)C=C1 | C13H18ClN5O
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-5-ureidopentyl]-3-methyl-4-(pyrrolidin 1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCCCNC(=O)N)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C26H31ClN6O3
